US07714009B2
4-[5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butyric acid
To a solution of 63 mg (0.14 mmol) of 4-[(5-chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butanenitrile in 3 mL of EtOH and 1 mL of water was added 29 mg (0.72 mmol) of sodium hydroxide pellets and the reaction was stirred at 75° C. for 48 h. To the reaction mixture was added 75 mg (1.87 mmol) of sodium hydroxide pellets and the reaction heated at 75° C. for 24 h and concentrated in vacuo to a residue. The thus obtained residue was dissolved in 5 mL of water and the pH was adjusted to 4-5 using hydrochloric acid (1N aqueous solution). The resulting slurry was filtered, and the solids were washed with water and dried under high vacuum to give 46 mg (70%) of the title compound as white solids.

reactant | (5-chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butanenitrile | ClC=1C=CC(=C(OC(C#N)CC)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C24H30ClN5O
reactant | sodium hydroxide | 0.72 mmol, 29 mg | [OH-].[Na+]
reactant | sodium hydroxide | 1.87 mmol, 75 mg | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
product | 4-[5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy]butyric acid | 46 mg, 70% | ClC=1C=CC(=C(OCCCC(=O)O)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C24H31ClN4O3
